US05288743
A mixture of 4-acetamidophenol (120 g; 796 mmol), 2-picolyl chloride hydrochloride (130.6 g; 796 mmol), and powdered potassium carbonate (330 g; 2.39 mol) in 1500 mL DMF was stirred at ambient temperature for 7 days. The reaction was poured into brine and the precipitate was collected by vacuum filtration. The solids were washed with water followed by diethyl ether. The reaction yielded N-acetyl-4-(pyrid-2-ylmethoxy)aniline as a beige solid.

reactant | 4-acetamidophenol | 796 mmol, 120 g | C(C)(=O)NC1=CC=C(C=C1)O | C8H9NO2
reactant | 2-picolyl chloride hydrochloride | 796 mmol, 130.6 g | Cl.N1=C(C=CC=C1)CCl
reactant | potassium carbonate | 2.39 mol, 330 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1500 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | N-acetyl-4-(pyrid-2-ylmethoxy)aniline | C(C)(=O)NC1=CC=C(C=C1)OCC1=NC=CC=C1 | C14H14N2O2
